US07727988B2
4-[5-(3-Methyl-thiophen-2-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-butyraldehyde (Prep32)
1-(4-Hydroxy-butyl)-5-(3-methyl-thiophen-2-yl)-1H-pyrimidine-2,4-dione (Prep 31, 30 mg, 0.11 mmol) was dissolved in dry DCM (2 mL), the solution was cooled to 0° C. and Dess-Martin periodinane (113 mg, 0.26 mmol) was added portionwise under nitrogen. The mixture was stirred at room temperature for 1.5 hours. Ethyl acetate was added and the solution washed with aqueous saturated Na2S2O3 (3 mL) and NaHCO3 (3 mL). The organic phase was dried (Na2SO4) and evaporated to give 30 mg of the title compound that was used in the next step without further purification (98% yield).

reactant | 1-(4-Hydroxy-butyl)-5-(3-methyl-thiophen-2-yl)-1H-pyrimidine-2,4-dione | 0.11 mmol, 30 mg | OCCCCN1C(NC(C(=C1)C=1SC=CC1C)=O)=O | C13H16N2O3S
reactant | Dess-Martin periodinane | 0.26 mmol, 113 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-[5-(3-Methyl-thiophen-2-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-butyraldehyde | 30 mg, 98% yield | CC1=C(SC=C1)C=1C(NC(N(C1)CCCC=O)=O)=O | C13H14N2O3S
